US07253196B2
1-Adamantylthiourea
A mixture of 1-adamantyl isothiocyanate (4.83 g, 25.0 mmol, Aldrich) and ammonia (0.5 M solution in 1,4-dioxane, 100 mL, 50 mmol) was stirred at ambient temperature for 48 h. The solvents were removed in vacuo to give the title compound as a white solid. MS m/z: 211.1 (M+H)+.

reactant | 1-adamantyl isothiocyanate | 25.0 mmol, 4.83 g | C12(CC3CC(CC(C1)C3)C2)N=C=S | C11H15NS
reactant | ammonia | 50 mmol, 0.5 M, 100 mL | N | H3N
product | 1-Adamantylthiourea | C12(CC3CC(CC(C1)C3)C2)NC(=S)N | C11H18N2S
